US09168248B2
Step 1: 3-Chloro-2-hydroxybenzamide.
A mixture of 3-chloro-2-hydroxybenzoic acid (335 mg, 1.94 mmol), DIPEA (2.98 mL, 17.08 mmol), HATU (849 mg, 2.232 mmol) was dissolved in DMF (1.94 mL)/THF (7.77 mL). The reaction was stirred for 15 min, then ammonium chloride (457 mg, 8.54 mmol) was added. The reaction mixture was stirred at room temperature overnight. The volatiles were evaporated under reduced pressure. The residue was diluted with saturated 1N HCl (20 mL) and extracted with EtOAc (3×5 mL). The combined organic fractions were washed with water (30 mL), sat. NaHCO3 (20 mL), brine (20 mL), dried over MgSO4 and evaporated under reduced pressure. The resulting residue was purified by Combiflash™ chromatography (SiO2, 12 g, elution with 10-70% EtOAc/hexanes over 40 min) to afford the title compound as solid.

reactant | 3-chloro-2-hydroxybenzoic acid | 1.94 mmol, 335 mg | ClC=1C(=C(C(=O)O)C=CC1)O | C7H5ClO3
reactant | DIPEA | 17.08 mmol, 2.98 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.232 mmol, 849 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 8.54 mmol, 457 mg | [Cl-].[NH4+]
solvent | DMF | 1.94 mL | CN(C)C=O | C3H7NO
solvent | THF | 7.77 mL | C1CCOC1 | C4H8O
product | 3-Chloro-2-hydroxybenzamide | ClC=1C(=C(C(=O)N)C=CC1)O | C7H6ClNO2
